US04675320
To a stirred solution of 1.9 g. (0.005 mole) of 2-bromo-3-phenyl-5-tetrazolylmethylbenzofuran in 50 ml. of warm acetic acid and 1 ml. of cyclohexene is added 1 g. of dinitrogen tetraoxide. The mixture is heated on a steam bath for 30 minutes, then cooled to ice bath temperature. The product is separated by filtration, washed with acetic acid and diethyl ether and recrystallized from ethanol to provide yellow needles of 2-nitro-3-phenyl-5(1H-tetrazol-5-ylmethyl)benzofuran, m.p. 245°-247° C. having the structure

reactant | 2-bromo-3-phenyl-5-tetrazolylmethylbenzofuran | 0.005 mole | BrC=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)CC2=NN=NN2 | C16H11BrN4O
reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | dinitrogen tetraoxide | [N+](=O)([N+](=O)[O-])[O-] | N2O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-nitro-3-phenyl-5(1H-tetrazol-5-ylmethyl)benzofuran | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)CC2=NN=NN2 | C16H11N5O3
